US04014896
To the crude wet xylene solution of 3,5-diphenyl-4-methylpyrazoline (from B above), is added 1.0 g of 5% palladium on carbon catalyst. The reaction mixture is slowly heated to reflux, and the water removed by azeotropic distillation using a Dean-Stark apparatus (xylene returned to reactor). Refluxing is continued at 145° C for 4 hours. After the four-hour reflux, the reaction mixture is cooled to 25° C, and the combined 5% palladium on charcoal/3,5-diphenyl-4-methylpyrazole filtered off. The solids are slurried in warm acetone to dissolve the 3,5-diphenyl-4-methylpyrazole. The catalyst is then filtered off. Removal of the acetone in vacuo yields 1.5 g of 3,5-diphenyl-4-methylpyrazole. After recrystallization from hot xylene, pure 3,5-diphenyl-4-methylpyrazole having a melting point of 225°-226° C is obtained.

reactant | 3,5-diphenyl-4-methylpyrazoline | C1(=CC=CC=C1)C=1NNC(C1C)C1=CC=CC=C1 | C16H16N2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3,5-diphenyl-4-methylpyrazole | 1.5 g | C1(=CC=CC=C1)C1=NNC(=C1C)C1=CC=CC=C1 | C16H14N2
